Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
ketamine / vancomycin
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ woman with a past medical
history of epilepsy who presents as a transfer from outside
hospital with multiple seizures, not back to baseline.
Per outside hospital report, patient initially presented with
headache, and told providers in the emergency department that
this was her classic prodrome for seizure.  She was witnessed to
have a generalized tonic-clonic seizure that lasted 
approximately
2 minutes and was treated with 2 mg of IV Ativan.  She was
postictal after this event.  She did not fully return to her
baseline, and then proceeded to have a second seizure, at which
time she was given 1 g of Keppra IV and 2 mg IV Ativan.  CT head
was normal.  Lactic acid was elevated, although it is unclear 
how
high.  At this point, the decision was made to transfer her to
___ as no EEG was available overnight.
Chart from outside hospital also reports that patient may have
had a seizure at age of ___, at which time she was evaluated at
___.  There is also mention that her
father battled cancer when she was a teenager, and this is 
around
the same time that her seizures began.  There was mention of
concern for nonepileptic events.  She is currently being treated
with Keppra 1.5 g twice daily.  She endorsed missed doses, at
least 2 over the past 48 hours prior to presentation.  She
previously had a neurologist, but missed an appointment with her
___ neurologist and told the emergency department that she
has subsequently been discharged from the practice and does not
currently have a neurologist.
Patient was incredibly somnolent on exam, but after repeated
stimulation was able to tell me that she thinks that her 
seizures
began in ___.  She said that she can have between 0 and 6
seizures in a week, and she has more seizures when she is
stressed out.  She does not remember what the seizures look 
like.
She thinks that she might also have a seizure that occurs with
her staring straight ahead, and has been told that this could be
a frontal lobe seizure.  She says that on ___ morning when 
she
woke up, she was not feeling good in the morning, she felt "off"
so she went to the ER.  She said she feels this way before she
has seizures.  She does not remember any other events while in
the emergency department prior to transfer.

Patient does not answer review of systems questions.

1. Progression:
Age and circumstances of first seizure: ___
History of generalized seizures? Yes, per report
History of status epilepticus? Unknown
Injuries from seizures?  Patient reports that she had to have 
her
teeth taken out because of seizures. (He minutes before she told
me that she had a degenerative disease that caused her teeth to
decay which is why she does not have teeth on the top)
Driving? No she knows she cannot per ___ law

2. Seizure characteristics:
Triggers: stress, sleep deprivation
Aura: "head starts feeling off"
Semiology of each seizure type (and frequency):
1. ?GTC ___ times per week
2.  Staring straight ahead unclear frequency

3. AED history:  Compliant - 
Current AEDs: Keppra 1500mg BID, missed 2 doses this weekend. 
Current medication side effects: Unknown
AEDs previously used and reason for discontinuation - tried
Tegretol but it didn't work. 
   
   
4. Seizure risk factors:  
History of perinatal hypoxia -unknown
History of birth complications -patient had a stay in the
neonatal ICU for methadone withdrawal
Developmental delay -unknown
History of CNS infection -patient denies
History of febrile seizures - none
History of head trauma - endorses loss of consciousness after
head trauma ___ 
Family history of seizures - aunt with seizures, unclear details
History of abuse -yes, patient's ex-boyfriend (they have not 
been
together for ___ year) used to physically and emotionally abuse
her, force her to use drugs with him
History of drug / alcohol use - h/o drug use with prior SO who
was abusive, no current drug use. 

 
Past Medical History:
Epilepsy
Hereditary gum disease that causes her teeth to decay from the
inside, has teeth removed and wears dentures
 
Social History:
___
Family History:
Aunt had seizures. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
 Vitals: T: 98.3 HR 51 BP 109/61 RR 16 SaO2 98% RA
 General: Somnolent, difficult to arouse
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Breathing comfortably on room air
 Cardiac good peripheral perfusion
 Abdomen: soft, NT/ND, no masses or organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Patient initially on exam did not wake to voice,
but would open eyes briefly to noxious and then close her eyes. 
Towards end of exam, patient was seen to be checking her cell
phone frequently, but did not always reliably respond to
examiner.  Patient can tell me her name, ___, hospital.  
Able
to state the months of the year backwards correctly and quickly. 

Can name the president but not the prior president.  Able to
repeat a sentence.  Alert, oriented x 3. Able to relate history
without difficulty. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 6 to 3mm and brisk. EOMI without
nystagmus. Normal saccades.  Responds to visual cues in all
quadrants.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. 
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Deferred due to somnolence. 

 
Pertinent Results:
LABS
----
___ 01:30AM BLOOD WBC-7.6 RBC-4.00 Hgb-11.4 Hct-36.1 MCV-90 
MCH-28.5 MCHC-31.6* RDW-14.3 RDWSD-47.8* Plt ___
___ 01:30AM BLOOD Neuts-42.6 ___ Monos-5.0 Eos-2.6 
Baso-0.3 Im ___ AbsNeut-3.26 AbsLymp-3.76* AbsMono-0.38 
AbsEos-0.20 AbsBaso-0.02
___ 12:20AM BLOOD ___ PTT-23.2* ___
___ 12:20AM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-141 
K-3.9 Cl-106 HCO3-26 AnGap-9*
___ 12:20AM BLOOD ALT-23 AST-28 AlkPhos-48 TotBili-0.2
___ 12:20AM BLOOD Lipase-60
___ 12:20AM BLOOD Albumin-3.4* Calcium-7.9* Phos-3.1 Mg-1.8
___ 12:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:30AM BLOOD Lactate-1.3
___ 12:48AM BLOOD K-3.8

CXR
No acute intrathoracic process.
 
Brief Hospital Course:
Ms. ___ was transferred to ___ from ___ due to witnessed 
breakthrough seizures, presumed to be in setting of 
non-compliance with anti-seizure medication. She was initially 
stabilized with Ativan x 2 and Keppra 1.5g and later evaluated 
by Neurology Resident in ED. Due to not returning to her 
baseline, she was admitted to General Neurology service with 
plans for EEG monitoring. Upon arrival to floor, she became 
acutely agitated and required 4mg Ativan IV without significant 
effect. Per report, she may have had 2 seizures? (not consistent 
with her known semiology). After discussion with patient and 
assistance from Psychiatry, pt was deemed to have capacity to 
leave AMA and was discharged as such.
 
Medications on Admission:
Patient was noncompliant with her home keppra
 
Discharge Medications:
1.  LevETIRAcetam 1500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Breakthrough seizures; Leaving AMA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Leaving AMA.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the BI General Neurology Service due to 
breakthrough seizures witnessed at an outside hospital. You 
received medications to stop those seizures and was transferred 
here for EEG monitoring. You will be leaving AMA today as we 
would like to make sure you are neurologically stable and have 
been monitored on EEG before discharge. Upon leaving the 
hospital, please proceed as follows:
-Please continue to take Keppra 1500mg BID
-Please follow up with your PCP in the near future for 
management of your various medical conditions and for referral 
to psychiatrist/therapist
-Please follow up in BI Neurology Clinic in near future (you 
will be contacted to arrange this appointment).

Thank you,
___ Neurology Team
 
Followup Instructions:
___